US04483857
2-Chloro-4-(4-formylpiperazino)pyrimidine (5.0 g) and dimethylamine (7.8 ml, 33% solution in ethanol) in ethanol (70 ml) were heated under reflux for 8 hours. The solvent was evaporated in vacuo and the residue was partitioned between chloroform and water. The aqueous layer was extracted twice with chloroform and the combined chloroform layers dried (Na2SO4) and evaporated in vacuo. The residue was re-crystallized from ethyl acetate to give 2-dimethylamino-4-(4-formylpiperazino)pyrimidine (2.7 g), m.p. 116° C.

reactant | 2-Chloro-4-(4-formylpiperazino)pyrimidine | 5.0 g | ClC1=NC=CC(=N1)N1CCN(CC1)C=O | C9H11ClN4O
reactant | dimethylamine | 7.8 ml | CNC | C2H7N
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-dimethylamino-4-(4-formylpiperazino)pyrimidine | 2.7 g | CN(C1=NC=CC(=N1)N1CCN(CC1)C=O)C | C11H17N5O
